US04673746
A mixture of 0.3 g of 2,3-dichloro-4-(2-fluorobenzohydroximoyl)phenoxyacetic acid and 0.05 g of sodium hydride in 5 ml of benzene and 5 ml of dimethylformamide is refluxed for 3 hours. To the mixture, after it has been permitted to cool there is added 5% hydrochloric acid causing the benzene to separate. The benzene is evaporated in vacuo and the resulting precipitate is collected by filtration and recrystallized from aqueous ethyl alcohol to yield the product {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid having a melting point of 188° to 189° C.

reactant | 2,3-dichloro-4-(2-fluorobenzohydroximoyl)phenoxyacetic acid | 0.3 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C1=C(C=CC=C1)F)=NO | C15H10Cl2FNO4
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC(=O)O | C15H9ClFNO4
